US07618975B2
(4-Methoxy-phenyl)-(2-phenyl-quinazolin-4-yl)-methyl-amine
The title compound was prepared from (4-methoxy-phenyl)-(2-phenyl-quinazolin-4-yl)-amine (51 mg, 0.16 mmol) and methyl iodide (0.07 ml, 1.09 mmol) by a procedure similar to Example 36. 1H NMR (CDCl3): 8.64-8.61 (m, 2H), 7.90 (d, J=8.4 Hz, 1H), 7.59-7.48 (m, 4H), 7.18-7.14 (m, 2H), 7.08-6.98 (m, 2H), 6.94-6.91 (m, 2H), 3.85 (s, 3H), 3.73 (s, 3H).

reactant | (4-methoxy-phenyl)-(2-phenyl-quinazolin-4-yl)-amine | 0.16 mmol, 51 mg | COC1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C21H17N3O
reactant | methyl iodide | 1.09 mmol, 0.07 ml | CI | CH3I
product | (4-Methoxy-phenyl)-(2-phenyl-quinazolin-4-yl)-methyl-amine | COC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C22H19N3O
